US06040306
1-(2-Fluoroethyl)-2-oxopiperazine trifluoroacetate (6.1 g) is dissolved in acetonitrile (100 ml). N,N-Diisopropylethylamine (13 ml) is added to the mixture, followed by 3,4-difluoronitrobenzene (3.39 g) and the mixture heated to reflux for 18 hours. The solvent is removed and the residue chromatographed (silica; eluting with a gradient increasing in polarity from 0 to 4% methanol in dichloromethane) to give 3-fluoro-4-(4-{2-fluoroethyl}-3-oxopiperazin-1-yl)nitrobenzene.

reactant | 1-(2-Fluoroethyl)-2-oxopiperazine trifluoroacetate | 6.1 g | FC(C(=O)O)(F)F.FCCN1C(CNCC1)=O
reactant | N,N-Diisopropylethylamine | 13 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3,4-difluoronitrobenzene | 3.39 g | FC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3F2NO2
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 3-fluoro-4-(4-{2-fluoroethyl}-3-oxopiperazin-1-yl)nitrobenzene | FC=1C=C(C=CC1N1CC(N(CC1)CCF)=O)[N+](=O)[O-] | C12H13F2N3O3
